US07595312B2
1d (R)-3-[(E)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-acryloyl]-4-benzyl-oxazolidin-2-one
Under a nitrogen atmosphere 3.93 g (90.0 mmol) of NaH (55% in mineral oil) were added batchwise to a solution of 31.98 g (90.0 mmol) of diethyl[2-((R)-4-benzyl-2-oxo-oxazolidin-3-yl)-2-oxo-ethyl]-phosphonate in 400 mL of THF. The reaction mixture was stirred for 30 min at RT and for a further 35 min at 35° C. After the development of gas had ended, 16.0 g (71.5 mmol) of 4-amino-3-chloro-5-trifluoromethyl-benzaldehyde, dissolved in 50 mL THF, were added dropwise and stirred for a further 12 h at RT. The reaction solution was combined with saturated NH4Cl solution, the mixture was extracted exhaustively with EtOAc and the combined extracts were dried and evaporated down i. vac. The residue remaining was purified by chromatography on silica gel. The desired product was obtained in the form of a yellow oil.

reactant | NaH | 90.0 mmol, 3.93 g | [H-].[Na+]
reactant | diethyl[2-((R)-4-benzyl-2-oxo-oxazolidin-3-yl)-2-oxo-ethyl]-phosphonate | 90.0 mmol, 31.98 g | C(C)OP(OCC)(=O)CC(=O)N1C(OC[C@H]1CC1=CC=CC=C1)=O | C16H22NO6P
reactant | 4-amino-3-chloro-5-trifluoromethyl-benzaldehyde | 71.5 mmol, 16.0 g | NC1=C(C=C(C=O)C=C1C(F)(F)F)Cl | C8H5ClF3NO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (R)-3-[(E)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-acryloyl]-4-benzyl-oxazolidin-2-one | NC1=C(C=C(C=C1C(F)(F)F)/C=C/C(=O)N1C(OC[C@H]1CC1=CC=CC=C1)=O)Cl | C20H16ClF3N2O3
